US08293735B2
Octahydro-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester
To a solution of (5-benzyl-octahydro-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester (777 mg, 2.46 mmol) in IMS (20 mL) was added palladium hydroxide on carbon (5%, 50 mg) and the mixture stirred under a hydrogen atmosphere at RT for 10 h. The reaction mixture was filtered through Celite and the filtrate concentrated in vacuo to give the title compound as a straw coloured oil (550 mg, 99%).

reactant | 5-benzyl-octahydro-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester | 2.46 mmol, 777 mg | C(C)(C)(C)OC(=O)N1CCC2CN(CCC21)CC2=CC=CC=C2 | C19H28N2O2
catalyst | palladium hydroxide on carbon | 50 mg | [OH-].[OH-].[Pd+2]
product | Octahydro-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester | 550 mg, 99% | C(C)(C)(C)OC(=O)N1CCC2CNCCC21 | C12H22N2O2
